US05985905
2-Naphthalenesulfonyl azide
A solution of sodium azide (3.1 g, 44 mmol) in water (10 ml) was added dropwise at RT to a stirred solution of 2-naphthalenesulfonyl chloride (10 g, 44 mmol) in acetone (60 ml) and stirring was continued for 2 hours. Water (50 ml) was added and the resulting mixture was decanted. The surnatant was discarded, while the brown oily residue was recrystallized from light petroleum producing after drying pure title compound (7.67 g, 32.9 mmol, yield 74.7%) as white needles, m.p.=45°.

reactant | sodium azide | 44 mmol, 3.1 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-naphthalenesulfonyl chloride | 44 mmol, 10 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | water | 10 ml | O | H2O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | Water | 50 ml | O | H2O
product | 2-Naphthalenesulfonyl azide | 32.9 mmol, 7.67 g, yield 74.7% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N=[N+]=[N-] | C10H7N3O2S
